Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm okay."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, this is a ___ year old single, college educated Asian 
woman with unclear prior psychiatric history, no prior suicide 
attempts or psychiatric admissions, unremarkable past medical
history who presented to ___ ED on ___ via EMS after being 
picked up by the police after calling 911 multiple times while 
wandering around ___ requesting a place to stay in the 
context of forgetting where she parked her car. 

Per Dr. ___ initial consultation note, patient 
reported, "I don't remember where I parked my car. I had been 
staying at a hotel but was trying not to spend too much." She
reported she came to ___ last ___ for a mental health 
conference called "Alternatives" and since then she had lost her 
car and had been unable to return home to ___. In order 
to save money, instead of staying in a hotel, she stayed in the 
___. Reported she was also visiting various 
schools in the ___ area, but when asked if she was 
considering returning to school, she seemed confused, stating, 
"this is ___ Ms. ___ reported she came to the hospital 
because she was unable to find a place to stay, reporting she 
called EMS because she was not feeling well but had difficulty 
elaborating aside from saying, "I had a cough." She later 
reported she called the police because "I was having trouble 
walking" due to the shoes she was wearing. Ms. ___ also 
recalled becoming close with a strange man after the conference 
and reported being forced to drink alcohol, which she typically 
does not do. Stated she does not recall the entire night but 
that a female authority figure allowed her to stay in her hotel 
room, which had extra beds and kicked the man out. 

Collateral from her mother, ___ at ___ revealed that 
the mother knows Ms. ___ suffers from a psychiatric illness and 
that she has appeared depressed and is "not herself." The mother 
felt the patient is unhappy with her life and only wants to do 
what she wants. The mother reported she is unable to organize 
and motivate herself and is unable to learn from her mistakes. 
The mother reported she received a call with the patient letting 
her know she was in ___ and that she had lost the car; the 
mother stated this has happened twice in ___ in the 
past andthat the patient has crashed two other cars in the past. 
Mother did not know of prior diagnoses or prior psychiatric 
hospitalizations, stating she may have been hospitalized in the 
past. Notes that she has difficulty keeping jobs "because she 
has lots of personal problems." 

ED Course: Patient was in good behavioral control and did not 
require physical or chemical restraints. 

On arrival to ___ 4, Ms. ___ was noted to be a somewhat vague 
historian and tended to be concrete; she confirmed the history 
initially provided in the ED. Patient reported that she has had 
contact with mental health since she was a college student for 
depression and apparent difficulty with interpersonal 
relationships with peers. However, she described difficulty with 
"depression" beginning in middle school or high school, which 
she described as "feeling angry, upset, and irritable." Ms. ___ 
also noted, "I'm not very good with people in general and I have 
a tendency to believe that people don't like me because I don't 
greet people and people don't think I'm friendly." Also admitted 
that she tends to be "forgetful" and has left the keys in the 
car and forgotten where she parks her car in the past. 

Ms. ___ reports she currently lives with her parents in the 
___ suburbs, which she finds difficult due to family 
conflict. She states she currently feels "stuck" and wishes she
could live independently from her parents, and hold a job on her 
own. Reported that generally she is dissatisfied with her life 
right now, but had difficulty providing additional detail on 
what she felt was keeping her "stuck." 

Reported feeling depressed as noted above and stated she has few 
pleasures in her life, although she used to enjoy music and 
literature. Reported she has been sleeping about ___ hours per 
night but sometimes will sleep more than that. Stated she does 
have feelings of self doubt and reported low energy. Stated 
appetite was "okay." Denied suicidal ideation on my examination. 


On psychiatric review of systems, patient denied auditory or 
visual hallucinations, paranoia. Although she did note, "I can 
be suspicious of people... I don't trust them." Denied ideas of 
reference, thought insertion or broadcasting. Denied history of 
manic symptoms including decreased need for sleep, excessive 
energy, grandiosity, hypersexuality. Denied alcohol or drug 
abuse. Reported feeling anxious, but denied panic attacks.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY: 
- Diagnoses: unclear, per patient she has received numerous 
diagnoses. Per OMR, carries diagnoses of schizoaffective 
disorder, MDD, bipolar disorder, adjustment disorder. States she 
has undergone neuropsych testing, with most recent testing 
several months ago at ___ 
- ___: denies/denies
- Hospitalizations: denies on my examination, reports she had 
spent the night in the ED following a fight with her roommate. 
- Psychiatrist: Recently saw a new psychiatrist at ___ 
___ in ___ 
- Therapist: none, but patient states she has a new intake 
appointment on ___ with Dr. ___ in ___
- Medication Trials: Zoloft, Paxil, Cymbalta, Celexa, Buspar, 
Abilify 

PAST MEDICAL HISTORY:
- Asthma
- History of Lyme disease
 
Social History:
PERSONAL AND SOCIAL HISTORY: 
Patient reports she was born and raised in that as the oldest of 
4 children with ___ younger brother and ___ younger sisters.  Her 
parents were immigrant from ___, and ran a restaurant in 
___.  At age ___, the patient reported that the restaurant 
was swabbed and her family moved to the ___ suburb 
area.  Ms. ___ reported "I didn't have a good childhood... my 
family has a lot of problems we argue a lot and my parents don't 
get along with each other." Patient reported she did not have 
many friends in childhood and tended to be alone, although did 
not seem to desire relationships. She noted her mother placed 
pressure on her to be academically successful, and patient did 
graduate high school, attending ___ for college, where she 
studied literature and graduated with 2.2 GPA. Following 
graduation, patient reported she had difficulty finding and 
maintaining a job for unclear reasons. Currently she is
living at home with her parents, which she finds stressful. 
States her parents recently lost their restaurant and the family 
income is based on the rental properties that her mother owns. 
States she is not close to her siblings for unclear reasons 
other than "we don't get along." Never married, no children. No 
legal issues. Reported history of physical abuse by her mother 
as a child, ?sexual assault in the past. Per OMR, is starting a 
new job for customer service for an insurance soon. No access to 
firearms.
. 
SUBSTANCE USE HISTORY:
- Alcohol: Denies
- Illicits: Denies
- Tobacco: Denies  
.
LEGAL HISTORY:
___
Family History:
Family History: 
- Diagnoses: No formal diagnoses 
- Suicides: Denies  
- Addictions: Denies 
 
Physical Exam:
Examination on Admission:

VITALS:
T 98.5, HR 79, BP 145/104, RR 16, SpO2 99% on RA

PHYSICAL EXAM:
-General: Patient is sitting comfortably in hospital gown, 
eating dinner. She is in no acute distress. 
-Skin: Warm and Dry.
-HEENT: PEERLA, EOM intact. Normal oropharynx, without erythema 
or exudate. Mucus membranes moist.
-Neck and Back: No spinal tenderness. 
-Lungs: Clear to auscultation bilaterally, no wheezes, rhonchi 
or rales. 
-CV: Regular rhythm with normal S1 and S2, no murmur rubs or 
gallops.
-Abdomen: Positive bowel sounds, no abdominal tenderness, 
distention, rebound or guarding. 
-Extremities: pulses present. No edema noted.

NEUROLOGICAL EXAM:
-CN: 
---Pupils symmetry and responsiveness to light and 
accommodation: pupils symmetric and responsive to light and 
accommodation
---Visual fields: full
---EOM: intact
---Facial sensation to light touch in all 3 divisions: intact
---Facial symmetry on eye closure and smile: intact and no
asymmetry
---Hearing bilaterally to rubbing fingers: intact
---Phonation: normal
---Head turning and shoulder shrug: normal bilaterally
---Tongue: midline, no atrophy
-Motor:
       Delt:C5  Bic:C6   Tri:C7   Wr ext:C6   Fing ext:C7
Left      ___       ___     ___     ___          ___ 
Right     ___       ___     ___     ___          ___ 
        IP:   Quad:    Hamst:   Dorsiflex:   ___:   Pl.flex
Left     ___     ___     ___      ___        ___     ___
Right    ___     ___     ___      ___        ___     ___ 
*Deep tendon Reflexes:
       Bicip:  Tric:  Brachial:  Patellar:  Achilles:   Toes:
Left     2+     2+     2+          2+          2+          2+
Right    2+     2+     2+          2+          2+          2+
-Sensation: intact
-Coordination: Finger-nose-finger; normal
-Gait/Romberg: within normal limits

MENTAL STATUS EXAM:
-Appearance: Patient is and Asian female who is well groomed, 
and sitting comfortably in bed. She appears her stated age. She 
is cooperative in the interview. 
-Behavior: She has avoidant, intermittent eye contact. Was 
engagable during the interview. At times she has inappropriate 
laughter when talking about drinking more alcohol than she was 
comfortable with a couple days prior to presentation as well as 
when speaking about becoming aggressive when upset in the past. 
She continues to eat her dinner during the interview.
-Mood and Affect: Mood: "I don't know, um, so um, what will 
happen tonight."
-Affect: Flat/Guarded affect.
-Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose
*associations):Significantly tangential. Her answers are vague,
circumferential.
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): Denies SI/HI. Denies auditory or visual
hallucinations. Denies any ideas of reference. 
  *Judgment and Insight: Poor judgment, poor insight

COGNITIVE EXAM: 
 *Attention, *orientation, and executive function: Awake and
alert. She is oriented to self, place, time, and situation.
    *Memory: She could not spontaneously recall any of the 3
words she was given, due to poor effort. She recalled all three
with categorical prompting .
    *Fund of knowledge: Apparently Average. Specifics not asked
     Calculations: 7 quarters =$1.75 correct
     Months of year backwards: Fluent and correct
Proverb: The grass is always greener on the other side: Rambling
response with excerpt as follows: "this means that there are
better things to look forward to. Not to be too pessimistic...Is
it like use lemons to make lemonade or the glass is half full."
    *Speech: Slow speech, with the occasional stutter.
Appropriate phonation.
    *Language: Fluent ___ without paraphasic errors.

Examination on Discharge:
VS: 97.0, 78, 106/71, 16, 97% on RA

VS: 97.0, 78, 106/71, 16, 97% on RA

A: Appearing stated age, good grooming/hygiene, wearing clean 
casual clothing
B: Sitting up in chair, appropriate eye contact, no PMA/PMR
S: Normal rate, volume, and flat tone
M: "Fine"
A: Mood-congruent, slightly blunted
TP: Linear, coherent, goal-oriented, no LOA
TC: Denies SI/HI/AVH
I/J: Fair/Fair

 
Pertinent Results:
CBC w/ Diff:
___: WBC: 4.8
___: RBC: 3.91
___: HGB: 10.3*
___: HCT: 33.4*
___: MCV: 85
___: MCH: 26.3
___: MCHC: 30.8*
___: RDW: 13.2
___: Plt Count: 211
___: Neuts%: 44.8
___: Lymphs: 42.6
___: MONOS: 8.4
___: Eos: 3.4
___: BASOS: 0.6
___: AbsNeuts: 2.14

BMP:
___: Na: 140
___: K: 3.6
___: Cl: 104
___: CO2: 26
___: BUN: 9
___: Creat: 0.7
___: Glucose: 95

HgbA1c:
___: %HbA1c: 5.0

Lipid Panel:
___: Cholesterol: 166
___: Triglycerides: 133
___: HDL: 51
___: LDL (calc): 88 (fasting)

LFTs:
___: ALT: 15
___: AST: 15
___: LDH: 161
___: Total Bili: 0.2

TSH:
___: TSH: 4.4*

Vitamin B12:
___: B12: 699

Folate:
___: Folate: 11

Rapid Plasma Reagin:
___: RPR: Pending.

STox:
___: ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc: NEG

UA:
___: Urine pH (Hem): 6.0
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): NEG
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: NEG
___: Urine Ketone (Hem): NEG
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): NEG

UTox:
___: Benzodiazepine: NEG 
___: Barbiturate: NEG
___: Opiate: NEG 
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG

Urine Culture:
___: (Final ___: MIXED BACTERIAL FLORA ( >= 3 COLONY 
TYPES), CONSISTENT WITH SKIN AND/OR GENITAL CONTAMINATION.
 
Brief Hospital Course:
This is a ___ year old single, college educated Asian woman with 
unclear prior psychiatric history, no prior suicide attempts or 
psychiatric admissions, unremarkable past medical history who 
presented to ___ ED on ___ via EMS after being picked up by 
the police after calling 911 multiple times while wandering 
around ___ requesting a place to stay in the context 
of forgetting where she parked her car. 

History of this time is somewhat limited, as the patient tends 
to be reluctant historian and is somewhat concrete, but 
remarkable for apparent onset of symptoms beginning in high 
school with periods of anger, irritability, and difficulty with 
interpersonal relationships in college, leading her to seek 
mental health assistance.  She endorses feelings of unhappiness 
in the setting of ongoing unemployment and difficulty with 
conflict with her family. Mental status examination is notable 
for an adequately groomed woman who appears well nourished, but 
who is oddly related with limited eye contact at times, blunted 
affect, and concrete thought process. 

Diagnostically, differential is broad, and clearly having 
collateral from prior outpatient treaters and results of 
neuropsychological testing would be immensely helpful. 
Differential diagnosis includes schizophrenia-spectrum illness, 
cluster A traits, prodromal psychosis (although she is somewhat 
old for this), autism spectrum disorder, and 
intellectual/learning disability; she seems to have difficulty 
with planning, abstract thought, focus/concentration, 
impulsivity. Of note, she does not appear depressed/dysphoric on 
my examination, although depression is clearly on the 
differential given her reports of low mood and dissatisfaction 
with her life (not having a job, living at home, lackluster 
social life). She also reports some anxiety and at times appears 
anxious. No clear history of mania in the past, and she is not 
manic on my examination -- it is unlikely she suffers from 
bipolar disorder given the information available at this time. 
Toxicology screen is negative and patient denies history of drug 
or alcohol use; it is unlikely that substances are contributing 
to her current presentation. In addition, given her young age 
and good health, it is doubtful that an underlying medical 
etiology is contributing.

1. LEGAL & SAFETY:  
On admission, Ms. ___ signed a conditional voluntary agreement 
(Section 10 & 11) and that legal status remained in place 
throughout admission.  Ms. ___ was also placed on 15 minute 
checks status with monitored sharps access (green sharps) on 
admission and remained on that level of observation throughout 
while being unit restricted.  Ms. ___ was unit restricted on 
admission but was evaluated by the team on a daily basis for 
safety for access to fresh air. There were no acute 
safety/behavioral concerns at any point during hospitalization, 
and as such Ms. ___ did not require any 
chemical/physical/mechanical restraints during admission.

2. PSYCHIATRIC:
#. Unspecified mood disorder: as noted above
Given odd affect and some concern for mood/psychotic symptoms, 
we discussed the risks and benefits of initiating a psychotropic 
medication including Geodon for it's mood stabilizing properties 
and an antidepressant for anxiety. Patient declined initiation 
of any psychotropic medications during this hospitalization, and 
she had the capacity to refuse them. Patient denied suicidal 
ideation or thoughts of self harm during her hospitalization and 
maintained good behavioral control in the milieu. On day of 
discharge, a family meeting was held and parents confirmed the 
patient's symptoms have been longstanding and admitted there had 
been significant familial conflict. The parents were supportive 
of the patient continuing to seek treatment as an outpatient and 
felt comfortable with the plan to discharge home with follow up 
appointments. 
.
3. Medical: no acute medical issues during this hospitalization 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 10 mg PO DAILY 
2. RisperiDONE 0.25 mg PO BID 
3. LamoTRIgine 25 mg PO BID 

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder
Unspecified anxiety disorder

 
Discharge Condition:
VS: 97.0, 78, 106/71, 16, 97% on RA

A: Appearing stated age, good grooming/hygiene, wearing clean 
casual clothing
B: Sitting up in chair, appropriate eye contact, no PMA/PMR
S: Normal rate, volume, and flat tone
M: 'Fine'
A: Mood-congruent, slightly blunted
TP: Linear, coherent, goal-oriented, no LOA
TC: Denies SI/HI/AVH
I/J: Fair/Fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed -- 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs -- whether 
prescription drugs or illegal drugs -- as this can further 
worsen your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___